US08614327B2
To a solution of methyl 2-(2,4-dinitrophenyl)-3,3,3-trifluoro-2-hydroxypropanoate (1.3 g, 4.01 mmol) in ethyl acetate (18 mL) was added (pH3) HCl (5.2 mL) followed by 10% Pd/C (350 mg) in ethyl acetate (3 mL). The reaction mixture was stirred overnight under an atmosphere of H2. The reaction mixture was filtered through a pad of Celite and the filtrate was concentrated in vacuo. The crude residue obtained was partitioned between dichloromethane (25 mL) and aqueous saturated NaHCO3 (15 mL). The organic phase was separated and the aqueous phase was extracted dichloromethane (2×25 mL). The combined organic phase was dried over Na2SO4, filtered, and concentrated. The residue was purified by silica gel column chromatography (50-100% ethyl acetate/hexanes) to give 6-amino-3-hydroxy-3-(trifluoromethyl)indolin-2-one (921 mg, 99%)

reactant | methyl 2-(2,4-dinitrophenyl)-3,3,3-trifluoro-2-hydroxypropanoate | 4.01 mmol, 1.3 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])C(C(=O)OC)(C(F)(F)F)O | C10H7F3N2O7
reactant | HCl | 5.2 mL, pH3 | Cl | ClH
solvent | ethyl acetate | 18 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 350 mg | [Pd] | Pd
product | 6-amino-3-hydroxy-3-(trifluoromethyl)indolin-2-one | 921 mg, 99% | NC1=CC=C2C(C(NC2=C1)=O)(C(F)(F)F)O | C9H7F3N2O2
